US06498254B1
Preparation of 2-[[(2,5-dimethylphenyl)methyl]thio]-1-methyl-pyridinium chloride
A mixture of 5.0 g of 1-methyl-2(1H)-pyridinethione and 6.2 g of 2,5-dimethylbenzyl-chloride in 40 ml of toluene was heated for five hours at 70° C. A pale yellow solid was filtered from the cooled mixture. Yield was 5 g having a melting point of 130-137° C. NMR and infrared spectra were consistent with the structure.

reactant | 1-methyl-2(1H)-pyridinethione | 5.0 g | CN1C(C=CC=C1)=S | C6H7NS
reactant | 2,5-dimethylbenzyl-chloride | 6.2 g | CC1=C(CCl)C=C(C=C1)C | C9H11Cl
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[[(2,5-dimethylphenyl)methyl]thio]-1-methyl-pyridinium chloride | [Cl-].CC1=C(C=C(C=C1)C)CSC1=[N+](C=CC=C1)C | InChI=1S/C15H18NS.ClH/c1-12-7-8-13(2)14(10-12)11-17-15-6-4-5-9-16(15)3;/h4-10H,11H2,1-3H3;1H/q+1;/p-1
